US05387617
To a mixture of 1.2 g of sodium hydride and 0.1 mL of methanol in 50 mL of THF was added a solution of 10 g of 1,1-diphenyl-10-undecen-1-ol in 20 mL of THF over 2 hrs. The mixture was stirred at room temperature for 4 hrs, then 3.5 mL of dimethylsulfate was added. The mixture was stirred for an additional 75 hrs, then 2 mL of methanol was added to quench any excess sodium hydride. The solvent was distilled in vacuo, the residue taken up in ether, and the solution washed with 10% by wt of hydrochloric acid, water, and saturated sodium hydrogen carbonate. The solution was then dried with sodium sulfate and concentrated in vacuo to give 10.6 g of 11,11-diphenyl-11-methoxyundec-1-ene which is characterized by:

reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | methanol | 0.1 mL | CO | CH4O
reactant | 1,1-diphenyl-10-undecen-1-ol | 10 g | C1(=CC=CC=C1)C(CCCCCCCCC=C)(O)C1=CC=CC=C1 | C23H30O
reactant | dimethylsulfate | 3.5 mL | COS(=O)(=O)OC | C2H6O4S
reactant | methanol | 2 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 11,11-diphenyl-11-methoxyundec-1-ene | 10.6 g | C1(=CC=CC=C1)C(CCCCCCCCC=C)(OC)C1=CC=CC=C1 | C24H32O
